US04489003
3.45 g (10 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate and 70 mg of powdered potassium cyanide in 10 ml of cyclopentanol are stirred at the boiling point overnight, the excess cyclopentanol is removed in vacuo, the residue is taken up in chloroform, filtered and evaporated. By recrystallization from ethyl acetate/hexane there is obtained cyclopentyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 210.5°-212°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 10 mmol, 3.45 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 70 mg | [C-]#N.[K+]
reactant | cyclopentanol | 10 ml | C1(CCCC1)O | C5H10O
product | cyclopentyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCC3)CCC1)=O | C20H20ClN3O3
